US08202856B2
Step 1: Ethyl 1-(2-fluorophenyl)-5-(tetra hydrofuran-2-yl)-1H-1,2,3-triazole-4-carboxylate
Potassium carbonate (2.419 g; 17.50 mmol; 2 eq.) was dissolved in DMSO (18 ml) and put under nitrogen atmosphere. 1-Azido-2-fluorobenzene, prepared according to Platz, M. S. et al. J. Org. Chem. 1989, 54, 5938-5945, (1.2 g; 8.75 mmol; 1 eq.) was dissolved in 10 mL of DMSO and ethyl 3-(tetrahydrofuran-2-yl)-3-oxopropanoate (Pharmacore, 1.793 mg; 9.63 mmol; 1.10 eq.) was added. This solution was added dropwise to the potassium carbonate solution at room temperature. The mixture was stirred at 70° C. for 3 hours. Water (30 mL) was added to the mixture and it was extracted with EtOAc (2×40 mL). Organics were washed with brine, dried over MgSO4 and concentrated under vacuum affording the title compound as a brown oil. It was used in the next step without further purification. HPLC (Method A) Rt 4.14 min (Purity: 86.6%).

reactant | Potassium carbonate | 17.50 mmol, 2.419 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | ethyl 3-(tetrahydrofuran-2-yl)-3-oxopropanoate | 9.63 mmol, 1.793 mg, 1.10 eq. | O1C(CCC1)C(CC(=O)OCC)=O | C9H14O4
reactant | Water | 30 mL | O | H2O
solvent | DMSO | 18 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | Ethyl 1-(2-fluorophenyl)-5-(tetra hydrofuran-2-yl)-1H-1,2,3-triazole-4-carboxylate | FC1=C(C=CC=C1)N1N=NC(=C1C1OCCC1)C(=O)OCC | C15H16FN3O3
